US08017775B2
Methyl 3-methyl-5-nitro-2-trifluoromethylsulfonyloxybenzoate (Reference Compound No. 1-4-(3))
Methyl 2-hydroxy-3-methyl-5-nitrobenzoate (Reference Compound No. 1-4-(2), 6.0 g, 28.4 mmol) was dissolved in tetrahydrofuran (200 mL), then triethylamine (16.7 mL, 120 mmol) and trifluorometanesulfonyl chloride (6.23 mL, 58.5 mmol) were added thereto, and then the reaction mixture was stirred at room temperature overnight. Water (500 mL) was added to the reaction mixture, then the whole was extracted with ethyl acetate (500 mL). The organic layer was washed with 0.2N aqueous NaOH solution (200 mL, twice) and saturated brine (200 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (9.32 g) as a pale yellow oil. (Yield 96%)

reactant | Methyl 2-hydroxy-3-methyl-5-nitrobenzoate | OC1=C(C(=O)OC)C=C(C=C1C)[N+](=O)[O-] | C9H9NO5
reactant | triethylamine | 120 mmol, 16.7 mL | C(C)N(CC)CC | C6H15N
reactant | trifluorometanesulfonyl chloride | 58.5 mmol, 6.23 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | Water | 500 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | Methyl 3-methyl-5-nitro-2-trifluoromethylsulfonyloxybenzoate | 9.32 g, Yield 96% | CC=1C(=C(C(=O)OC)C=C(C1)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H8F3NO7S
